2122-01-20 06:55:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2122-1-19**] 08:41 AM
 SPUTUM CULTURE - At [**2122-1-19**] 04:26 PM
 ARTERIAL LINE - START [**2122-1-19**] 05:00 PM
 INVASIVE VENTILATION - START [**2122-1-19**] 05:56 PM
 SPUTUM CULTURE - At [**2122-1-19**] 06:00 PM
 FEVER - 101.8
F - [**2122-1-19**] 06:00 PM
   [**2122-1-19**]
   - Intubated/Sedated for airway protection, suctioning, ?bronchoscopy
   - L A-line placed
   - Hypernatremic, D5 1/2NS started
   Allergies:
   Penicillins
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Flomax (Oral) (Tamsulosin Hcl)
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2122-1-19**] 12:18 PM
   Meropenem - [**2122-1-20**] 04:00 AM
   Vancomycin - [**2122-1-20**] 06:00 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2122-1-19**] 04:32 PM
   Pantoprazole (Protonix) - [**2122-1-19**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-1-20**] 06:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 37.8
C (100.1
   HR: 97 (90 - 179) bpm
   BP: 127/55(79) {92/46(61) - 160/78(101)} mmHg
   RR: 17 (17 - 43) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 85.4 kg (admission): 85.4 kg
             Total In:
                                                                  2,835 mL
                                                                    983 mL
   PO:
             TF:
             29 mL
   IVF:
                                                                  2,735 mL
                                                                    754 mL
   Blood products:
   Total out:
                                                                    680 mL
                                                                    415 mL
   Urine:
                                                                    680 mL
                                                                    415 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,155 mL
                                                                    568 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 6
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI Deferred: FiO2 > 60%
   PIP: 11 cmH2O
   Plateau: 14 cmH2O
   SpO2: 97%
   ABG: 7.42/35/80.[**Numeric Identifier 20**]/24/0
   Ve: 11.8 L/min
   PaO2 / FiO2: 133
   Physical Examination
   Gen:  Sedated intubated
   HEENT:  NC, PERRLA, MMdry
   CVS:  Irregularly irregular, tachycardic, no murmurs
   RESP:  Coarse breath sounds BL, rhonchi on right
   ABD:  Soft, NT, ND, +BS
   EXT:  No edema
   Labs / Radiology
   246 K/uL
   12.1 g/dL
   118 mg/dL
   1.6 mg/dL
   24 mEq/L
   4.2 mEq/L
   30 mg/dL
   117 mEq/L
   147 mEq/L
   34.5 %
   17.4 K/uL
        [image002.jpg]
                             [**2122-1-15**]  12:39 PM
                             [**2122-1-16**]  05:10 AM
                             [**2122-1-19**]  06:00 AM
                             [**2122-1-19**]  08:50 AM
                             [**2122-1-19**]  09:15 AM
                             [**2122-1-19**]  11:47 AM
                             [**2122-1-19**]  05:07 PM
                             [**2122-1-19**]  06:35 PM
                             [**2122-1-20**]  03:54 AM
                             [**2122-1-20**]  04:12 AM
   WBC
   13.0
   10.4
   22.2
   21.2
   17.4
   Hct
   41.6
   38.4
   38.9
   38.2
   34.5
   Plt
   186
   190
   215
   235
   246
   Cr
   3.2
   2.4
   1.5
   1.6
   TropT
   0.06
   0.06
   0.04
   0.04
   0.04
   TCO2
   22
   25
   22
   23
   Glucose
   189
   141
   180
   118
   Other labs: PT / PTT / INR:17.5/37.2/1.6, CK / CKMB /
   Troponin-T:83/6/0.04, Differential-Neuts:88.6 %, Lymph:7.1 %, Mono:3.4
   %, Eos:0.6 %, Lactic Acid:1.7 mmol/L, Ca++:8.7 mg/dL, Mg++:2.2 mg/dL,
   PO4:1.9 mg/dL
   Assessment and Plan
   87M h/o Alzheimer's dementia presented with pneumonia now with fever,
   tachycardia, tachypnea, hypoxia.
   .
   # SIRS/Sepsis:  Most likely secondary to PNA as evidenced by CXR right
   sided infiltrate.  Likely secondary to chronic aspiration with possible
   superimposed bacterial process.
   - s/p intubation yesterday for airway protection and frequent
   suctioning
   - Continue to trend lactate, fever curve, WBC
   - f/u blood cultures and sputum cultures, currently no growth
   - continue vanc/[**Last Name (un) **]/levoflox for empiric coverage, likely will be able
   to discontinue vancomycin
   - frequent suctioning
   - Nebs prn
   .
   # Tachycardia: MAT vs. afib. Likely being driven by inflammatory state.
   Concern for evolving sepsis and HD stable at present. Tolerate mildly
   elevated rate for now, but if sustained would treat.
   - [**Last Name (LF) 4022**], [**First Name3 (LF) 124**] get EKG today
   - Treat infection per above
   - Will treat with metoprolol 12.5mg TID
   .
   # Hypernatremia: Increasing this AM to 147, give D5W and check PM Na+.
   -          increase tube feed flushes to 200cc q6h
   -          will place Nutrition consult for tube feed recs
   .
   #. ARF: Resolved to baseline, prerenal etiology. Monitor daily.
   -          PM set of lytes
   #. Guaiac positive stool: No known h/o GI bleeding, does have GERD per
   report. Brown G+ stool prior to transfer. HD stable. Maintain T&S,
   PIVs. [**Hospital1 **] Hct. PPI IV bid.
   - PM CBC
   .
   #. Dementia: continue outpatient sertraline and namenda.
   .
   # FEN: NPO x meds, replete lytes prn
   # Access: PIV x 2 (18, 20)
   # PPx: PPI [**Hospital1 **], heparin sc tid, bowel regimen
   # Code: Full (confirmed)
   # Communication: Primary is daughter ([**Name (NI) 655**]) [**Telephone/Fax (1) 3978**] (home)
   [**Telephone/Fax (1) 3979**] (cell)
   -- [**Hospital1 **] [**Location (un) 3894**] [**Telephone/Fax (1) 3895**]
   -- wife [**Name (NI) 896**] [**Telephone/Fax (1) 3896**] or [**Telephone/Fax (1) 3897**]
   -- [**First Name5 (NamePattern1) 82**] [**Last Name (NamePattern1) 3980**] [**Telephone/Fax (1) 3981**] (cell) (son-in-law)
   # DISPO:  ICU
 IMPAIRED SKIN INTEGRITY
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   ICU Care
   Nutrition:
   Nutren Pulmonary ([**1-9**]) - [**2122-1-20**] 04:00 AM 10 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2122-1-19**] 05:00 PM
   20 Gauge - [**2122-1-19**] 06:52 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2122-01-21 07:08:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2122-1-20**] 12:30 PM
 EKG - At [**2122-1-20**] 01:00 PM
 FEVER - 101.2
F - [**2122-1-21**] 05:00 AM
   No acute events
   Allergies:
   Penicillins
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Flomax (Oral) (Tamsulosin Hcl)
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2122-1-19**] 12:18 PM
   Vancomycin - [**2122-1-20**] 08:00 PM
   Meropenem - [**2122-1-21**] 04:12 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2122-1-20**] 09:00 PM
   Heparin Sodium (Prophylaxis) - [**2122-1-21**] 12:09 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-1-21**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 38.4
C (101.2
   HR: 86 (77 - 119) bpm
   BP: 116/62(81) {91/48(62) - 144/94(102)} mmHg
   RR: 22 (13 - 22) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 85.4 kg (admission): 85.4 kg
   Height: 71 Inch
             Total In:
                                                                  5,482 mL
                                                                  1,608 mL
   PO:
             TF:
                                                                    799 mL
                                                                    460 mL
   IVF:
                                                                  3,703 mL
                                                                  1,022 mL
   Blood products:
   Total out:
                                                                    960 mL
                                                                    255 mL
   Urine:
                                                                    960 mL
                                                                    255 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,522 mL
                                                                  1,353 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI Deferred: FiO2 > 60%
   PIP: 11 cmH2O
   Plateau: 11 cmH2O
   SpO2: 92%
   ABG: 7.39/40/86.[**Numeric Identifier 253**]/24/0
   Ve: 13.3 L/min
   PaO2 / FiO2: 145
   Physical Examination
   Gen:  Sedated intubated
   HEENT:  NC, PERRLA, MMdry
   CVS:  Irregularly irregular, tachycardic, no murmurs
   RESP:  Coarse breath sounds BL, rhonchi on right
   ABD:  Soft, NT, ND, +BS
   EXT:  No edema
   Labs / Radiology
   272 K/uL
   11.8 g/dL
   127 mg/dL
   1.7 mg/dL
   24 mEq/L
   4.4 mEq/L
   34 mg/dL
   114 mEq/L
   145 mEq/L
   34.8 %
   20.9 K/uL
        [image002.jpg]
                             [**2122-1-19**]  08:50 AM
                             [**2122-1-19**]  09:15 AM
                             [**2122-1-19**]  11:47 AM
                             [**2122-1-19**]  05:07 PM
                             [**2122-1-19**]  06:35 PM
                             [**2122-1-20**]  03:54 AM
                             [**2122-1-20**]  04:12 AM
                             [**2122-1-20**]  03:53 PM
                             [**2122-1-20**]  04:06 PM
                             [**2122-1-21**]  03:11 AM
   WBC
   22.2
   21.2
   17.4
   17.6
   20.9
   Hct
   38.9
   38.2
   34.5
   34.5
   34.8
   Plt
   [**Telephone/Fax (3) 4034**]48
   272
   Cr
   1.5
   1.6
   1.5
   1.7
   TropT
   0.04
   0.04
   TCO2
   22
   25
   22
   23
   25
   Glucose
   180
   118
   135
   134
   127
   Other labs: PT / PTT / INR:17.5/37.2/1.6, CK / CKMB /
   Troponin-T:83/6/0.04, Differential-Neuts:88.6 %, Lymph:7.1 %, Mono:3.4
   %, Eos:0.6 %, Lactic Acid:1.7 mmol/L, Ca++:7.9 mg/dL, Mg++:2.1 mg/dL,
   PO4:2.4 mg/dL
   Imaging: CXR: Overall improvement, decreased opacity Bilaterally.  ET
   Tub ~4cm from carina
   Microbiology: GRAM STAIN (Final [**2122-1-19**]):
         >25 PMNs and <10 epithelial cells/100X field.
         NO MICROORGANISMS SEEN.
   Assessment and Plan
   87M h/o Alzheimer's dementia presented with pneumonia now with fever,
   tachycardia, tachypnea, hypoxia.
   .
   # SIRS/Sepsis:  Most likely secondary to PNA as evidenced by CXR right
   sided infiltrate.  Likely secondary to chronic aspiration with possible
   superimposed bacterial process.
   - s/p intubation yesterday for airway protection and frequent
   suctioning
   - Continue to trend lactate, fever curve, WBC
   - f/u blood cultures and sputum cultures, currently no growth
   - continue vanc/[**Last Name (un) **]/levoflox for empiric coverage, likely will be able
   to discontinue vancomycin
   - frequent suctioning
   - Nebs prn
   .
   # Tachycardia: MAT vs. afib. Likely being driven by inflammatory state.
   Concern for evolving sepsis and HD stable at present. Tolerate mildly
   elevated rate for now, but if sustained would treat.
   - [**Last Name (LF) 4022**], [**First Name3 (LF) 124**] get EKG today
   - Treat infection per above
   - Will treat with metoprolol 12.5mg TID
   .
   # Hypernatremia: Increasing this AM to 147, give D5W and check PM Na+.
   -          increase tube feed flushes to 200cc q6h
   -          will place Nutrition consult for tube feed recs
   .
   #. ARF: Resolved to baseline, prerenal etiology. Monitor daily.
   -          PM set of lytes
   #. Guaiac positive stool: No known h/o GI bleeding, does have GERD per
   report. Brown G+ stool prior to transfer. HD stable. Maintain T&S,
   PIVs. [**Hospital1 **] Hct. PPI IV bid.
   - PM CBC
   .
   #. Dementia: continue outpatient sertraline and namenda.
   .
   # FEN: NPO x meds, replete lytes prn
   # Access: PIV x 2 (18, 20)
   # PPx: PPI [**Hospital1 **], heparin sc tid, bowel regimen
   # Code: Full (confirmed)
   # Communication: Primary is daughter ([**Name (NI) 655**]) [**Telephone/Fax (1) 3978**] (home)
   [**Telephone/Fax (1) 3979**] (cell)
   -- [**Hospital1 **] [**Location (un) 3894**] [**Telephone/Fax (1) 3895**]
   -- wife [**Name (NI) 896**] [**Telephone/Fax (1) 3896**] or [**Telephone/Fax (1) 3897**]
   -- [**First Name5 (NamePattern1) 82**] [**Last Name (NamePattern1) 3980**] [**Telephone/Fax (1) 3981**] (cell) (son-in-law)
   # DISPO:  ICU
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2122-1-20**] 03:00 PM 65 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2122-1-19**] 05:00 PM
   20 Gauge - [**2122-1-19**] 06:52 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2122-01-22 07:50:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PAN CULTURE - At [**2122-1-21**] 04:27 PM
 FEVER - 102.5
F - [**2122-1-21**] 04:00 PM
   -Re intubated [**2-9**] hypoxia, using glidoscope had witnessed aspiration to
   lungs
   -Required 2 L IVF to keep pressures up
   -Temp spike overnight, was cultured, abx already broad
   Patient responds to commands but unable to verbalize despite lack of
   sedation.
   Allergies:
   Penicillins
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Flomax (Oral) (Tamsulosin Hcl)
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2122-1-19**] 12:18 PM
   Vancomycin - [**2122-1-21**] 08:00 PM
   Ciprofloxacin - [**2122-1-22**] 12:24 AM
   Meropenem - [**2122-1-22**] 06:51 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2122-1-21**] 01:14 PM
   Pantoprazole (Protonix) - [**2122-1-21**] 07:41 PM
   Heparin Sodium (Prophylaxis) - [**2122-1-22**] 12:24 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-1-22**] 07:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.5
   Tcurrent: 38.1
C (100.5
   HR: 100 (79 - 116) bpm
   BP: 119/49(71) {73/44(59) - 152/88(102)} mmHg
   RR: 25 (11 - 27) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 85.4 kg (admission): 85.4 kg
   Height: 71 Inch
             Total In:
                                                                  6,563 mL
                                                                  1,265 mL
   PO:
             TF:
                                                                    871 mL
   IVF:
                                                                  5,287 mL
                                                                  1,265 mL
   Blood products:
   Total out:
                                                                  1,262 mL
                                                                    323 mL
   Urine:
                                                                  1,012 mL
                                                                    273 mL
   NG:
                                                                    250 mL
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                  5,301 mL
                                                                    942 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 469 (469 - 850) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 22
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 16 cmH2O
   SpO2: 97%
   ABG: 7.42/38/106/22/0
   Ve: 12.6 L/min
   PaO2 / FiO2: 212
   Physical Examination
   Gen:  Intubated, not sedated but not following commands. Opens eyes to
   voice
   HEENT:  NC, PERRLA, MMdry
   CVS:  Rapid, S1 & S2 without murmur
   RESP:  Coarse breath sounds BL, rhonchi on right>Left
   ABD:  Soft, NT, ND, +BS
   EXT:  No edema, 2+ distal pulses
   Labs / Radiology
   253 K/uL
   10.0 g/dL
   145 mg/dL
   1.6 mg/dL
   22 mEq/L
   4.1 mEq/L
   31 mg/dL
   112 mEq/L
   141 mEq/L
   28.6 %
   20.9 K/uL
        [image002.jpg]
                             [**2122-1-20**]  03:53 PM
                             [**2122-1-20**]  04:06 PM
                             [**2122-1-21**]  03:11 AM
                             [**2122-1-21**]  07:41 AM
                             [**2122-1-21**]  11:30 AM
                             [**2122-1-21**]  02:35 PM
                             [**2122-1-21**]  02:48 PM
                             [**2122-1-21**]  06:39 PM
                             [**2122-1-22**]  01:41 AM
                             [**2122-1-22**]  01:57 AM
   WBC
   17.6
   20.9
   20.9
   Hct
   34.5
   34.8
   28.6
   Plt
   [**Telephone/Fax (3) 4067**]
   Cr
   1.5
   1.7
   1.7
   1.6
   TCO2
   25
   24
   25
   24
   17
   25
   Glucose
   135
   134
   127
   140
   145
   Other labs: PT / PTT / INR:17.5/37.2/1.6, CK / CKMB /
   Troponin-T:83/6/0.04, Amylase / Lipase:14/12, Differential-Neuts:88.6
   %, Lymph:7.1 %, Mono:3.4 %, Eos:0.6 %, Lactic Acid:1.7 mmol/L, Ca++:7.4
   mg/dL, Mg++:1.9 mg/dL, PO4:2.5 mg/dL
   Fluid analysis / Other labs: Urine Studies:
   Creat:103
   Na:31
   Osmolal:576
   FeNa: 0.36%
   Imaging: CXR: Decreased opacity L side, R side unchange.  ET Tube 4cm
   from Carina
   Microbiology: Sputum [**1-19**]:
   Polys & Epithelial cells, yeast/contamination
   BCx: All pending or negative
   UCx: Pending
   Assessment and Plan
   87M h/o Alzheimer's dementia presented with pneumonia now intubated for
   airway protection.
   # Hypoxic Respiratory failure: Secondary to Aspiration Pneumonia:
   Patient
s condition unchanged even through aspiration event.  Patient
   is tolerating PSV. Persistent fevers and no clear response to broad
   antibiotic coverage.  Superinfection remains a concern.
   - s/p re-intubation currently tolerating CPAP
   - Continue to trend fever curve, WBC
   - f/u blood cultures and sputum cultures, currently no growth
   - D/C Vanc, Continue [**Last Name (un) 350**]/Cipro for total 7 day course [**1-26**].
   - frequent suctioning
   - Nebs prn
   # Tachycardia: Persists.  Likely being driven by inflammatory state.
   - Metoprolol 12.5mg TID
   .
   # Hypernatremia: Improving to 143.
   -          D5 1/2NS for maintenance while NPO
   -          Hold tube feeds/FW boluses until doboff placed.
   -          will place Nutrition consult for tube feed recs
   .
   #. ARF: Pre-renal azotemia by FeNa.
   - Continue Tube Feeds/Hydration as protocolled in
Hypernatremia
   #. Guaiac positive stool: No known h/o GI bleeding, does have GERD per
   report. Brown G+ stool prior to transfer. HD stable. Maintain T&S,
   PIVs. [**Hospital1 **] Hct. PPI IV bid.
   - PM CBC
   #. Dementia: continue outpatient sertraline and namenda.
   # FEN: Tube feeds, replete lytes prn
   # Access: PIV x 2 (18, 20), L radial arterial line
   # PPx: PPI [**Hospital1 **], heparin sc tid, bowel regimen
   # Code: Full (confirmed)
   # Communication: Primary is daughter ([**Name (NI) 655**]) [**Telephone/Fax (1) 3978**] (home)
   [**Telephone/Fax (1) 3979**] (cell)
   -- [**Hospital1 **] [**Location (un) 3894**] [**Telephone/Fax (1) 3895**]
   -- wife [**Name (NI) 896**] [**Telephone/Fax (1) 3896**] or [**Telephone/Fax (1) 3897**]
   -- [**First Name5 (NamePattern1) 82**] [**Last Name (NamePattern1) 3980**] [**Telephone/Fax (1) 3981**] (cell) (son-in-law)
   # DISPO:  ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2122-1-19**] 05:00 PM
   20 Gauge - [**2122-1-19**] 06:52 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2122-01-23 06:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2122-1-22**] 02:00 PM
 SPUTUM CULTURE - At [**2122-1-22**] 10:00 PM
 BLOOD CULTURED - At [**2122-1-22**] 11:28 PM
 URINE CULTURE - At [**2122-1-23**] 01:45 AM
 FEVER - 101.9
F - [**2122-1-23**] 05:00 AM
   [**2122-1-22**]
   - Biting on tube during suctioning--> Afib with RVR--> Lopressor +
   Sedation, resolved
   - Hiccups with tube feeds at 10.  Reposition doboff?
   The patient was less responsive this AM, not withdrawing to pain.
   Allergies:
   Penicillins
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Flomax (Oral) (Tamsulosin Hcl)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2122-1-22**] 08:00 AM
   Ciprofloxacin - [**2122-1-23**] 12:08 AM
   Meropenem - [**2122-1-23**] 03:59 AM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2122-1-22**] 05:18 PM
   Fentanyl - [**2122-1-22**] 05:18 PM
   Metoprolol - [**2122-1-22**] 05:18 PM
   Pantoprazole (Protonix) - [**2122-1-22**] 07:30 PM
   Heparin Sodium (Prophylaxis) - [**2122-1-23**] 12:08 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-1-23**] 06:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.9
   Tcurrent: 37.2
C (98.9
   HR: 83 (83 - 119) bpm
   BP: 89/44(54) {89/44(54) - 136/71(118)} mmHg
   RR: 22 (20 - 33) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 85.4 kg (admission): 85.4 kg
   Height: 71 Inch
             Total In:
                                                                  4,017 mL
                                                                  1,911 mL
   PO:
             TF:
                                                                     24 mL
                                                                     48 mL
   IVF:
                                                                  3,932 mL
                                                                  1,863 mL
   Blood products:
   Total out:
                                                                  1,437 mL
                                                                    270 mL
   Urine:
                                                                  1,387 mL
                                                                    270 mL
   NG:
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                  2,580 mL
                                                                  1,641 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 530 (530 - 650) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 5
   PEEP: 8 cmH2O
   FiO2: 60%
   RSBI Deferred: RR >35
   PIP: 21 cmH2O
   SpO2: 98%
   ABG: 7.43/36/147/20/0
   Ve: 13.6 L/min
   PaO2 / FiO2: 245
   Physical Examination
   Gen:  Intubated, not sedated but not following commands.
   HEENT:  NC, PERRLA, MMdry
   CVS:  Rapid, S1 & S2 without murmur
   RESP:  Coarse breath sounds BL, rhonchi on right>Left
   ABD:  Soft, NT, ND, +BS
   EXT:  No edema, 2+ distal pulses
   Labs / Radiology
   276 K/uL
   10.9 g/dL
   142 mg/dL
   1.5 mg/dL
   20 mEq/L
   4.3 mEq/L
   27 mg/dL
   110 mEq/L
   140 mEq/L
   31.6 %
   20.5 K/uL
        [image002.jpg]
                             [**2122-1-21**]  03:11 AM
                             [**2122-1-21**]  07:41 AM
                             [**2122-1-21**]  11:30 AM
                             [**2122-1-21**]  02:35 PM
                             [**2122-1-21**]  02:48 PM
                             [**2122-1-21**]  06:39 PM
                             [**2122-1-22**]  01:41 AM
                             [**2122-1-22**]  01:57 AM
                             [**2122-1-22**]  10:16 PM
                             [**2122-1-22**]  10:31 PM
   WBC
   20.9
   20.9
   20.5
   Hct
   34.8
   28.6
   31.6
   Plt
   272
   253
   276
   Cr
   1.7
   1.7
   1.6
   1.5
   TCO2
   24
   25
   24
   17
   25
   25
   Glucose
   127
   140
   145
   142
   Other labs: PT / PTT / INR:19.5/35.6/1.8, CK / CKMB /
   Troponin-T:83/6/0.04, Amylase / Lipase:14/12, Differential-Neuts:88.6
   %, Lymph:7.1 %, Mono:3.4 %, Eos:0.6 %, Lactic Acid:1.7 mmol/L, Ca++:7.8
   mg/dL, Mg++:2.0 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   87M h/o Alzheimer's dementia presented with pneumonia intubated for
   airway protection.
   # Hypoxic Respiratory failure:   Secondary to Aspiration, initially
   thought pneumonia, but no response to antibiotics, therefore more
   likely aspiration pneumonitis.  The patient
s CXR is only marginally
   improved overnight.  Patient is back on AC ventilation given lack of
   responsiveness.
   - s/p re-intubation
   - Continue to trend fever curve, WBC, and discontinue antibiotics today
   after prolonged course of vanc/[**Last Name (un) **]/cipro.
   - f/u blood cultures and sputum cultures, currently no growth, if
   develops positive cultures will restart antibiotics directed towards
   specific pathogen
   - continue frequent suctioning
   - continue nebs prn
   #  Hypotensive:  The patient became hypotensive after starting
   metoprolol for tachycardia.  Will discontinue metoprolol currently.
   Will also continue to fluid resuscitate as needed, but given length of
   stay very positive, will attempt lasix drip.
   - PIVs for now placed by IV team.  If the patient continues to be
   hypotensive, may require central access and arterial line.
   .
   # Hypernatremia: Continues to improve, at 140 today.
   -          Discontinue maintenance fluids now and attempt to restart
   tube feeds with free water flushes.
   #. ARF: Pre-renal azotemia by FeNa.
   - Continue Tube Feeds/Hydration as protocolled in
Hypernatremia
   #. Guaiac positive stool: No known h/o GI bleeding, does have GERD per
   report. Brown G+ stool prior to transfer. HD stable. Maintain T&S,
   PIVs. [**Hospital1 **] Hct. PPI IV bid.
   - PM CBC
   #. Dementia: continue outpatient sertraline and namenda.
   # FEN: Tube feeds, replete lytes prn
   # Access: PIV x 2 (18, 20), L radial arterial line
   # PPx: PPI [**Hospital1 **], heparin sc tid, bowel regimen
   # Code: Full (confirmed), will have family meeting on Monday
   # Communication: Primary is daughter ([**Name (NI) 655**]) [**Telephone/Fax (1) 3978**] (home)
   [**Telephone/Fax (1) 3979**] (cell)
   -- [**Hospital1 **] [**Location (un) 3894**] [**Telephone/Fax (1) 3895**]
   -- wife [**Name (NI) 896**] [**Telephone/Fax (1) 3896**] or [**Telephone/Fax (1) 3897**]
   -- [**First Name5 (NamePattern1) 82**] [**Last Name (NamePattern1) 3980**] [**Telephone/Fax (1) 3981**] (cell) (son-in-law)
   # DISPO:  ICU
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 TACHYCARDIA, OTHER
 IMPAIRED SKIN INTEGRITY
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2122-1-19**] 06:52 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2122-01-24 06:50:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Discussed plan with patient's wife and son.  They would like to see
   how he does with the lasix drip over the next two days then reevaluate
   on Sunday night.  If it does not appear that he is improving, they
   would like to remove the mechanical ventilations.  Their goal would be
   for him to go home with hospice care.  Confirmed with family to make
   him DNR.
   - Put out good UOP with lasix
   - The patient has episodes of tachycardia up to the 160s overnight,
   appeared to be sinus tachycardia.  Getting EKG this AM
 FEVER - 102.4
F - [**2122-1-23**] 06:00 PM
   Allergies:
   Penicillins
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Flomax (Oral) (Tamsulosin Hcl)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2122-1-22**] 08:00 AM
   Ciprofloxacin - [**2122-1-23**] 12:08 AM
   Meropenem - [**2122-1-23**] 03:59 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2122-1-23**] 08:01 PM
   Heparin Sodium (Prophylaxis) - [**2122-1-24**] 12:29 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-1-24**] 06:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.4
   Tcurrent: 38.2
C (100.7
   HR: 111 (66 - 116) bpm
   BP: 131/53(74) {80/39(49) - 156/75(87)} mmHg
   RR: 18 (16 - 38) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 85.4 kg (admission): 85.4 kg
   Height: 71 Inch
             Total In:
                                                                  3,183 mL
                                                                     85 mL
   PO:
             TF:
                                                                    170 mL
   IVF:
                                                                  3,013 mL
                                                                     85 mL
   Blood products:
   Total out:
                                                                  2,705 mL
                                                                  1,545 mL
   Urine:
                                                                  2,405 mL
                                                                  1,545 mL
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                    478 mL
                                                                 -1,460 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 7
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 86
   PIP: 20 cmH2O
   Plateau: 18 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 98%
   ABG: ///26/
   Ve: 11.7 L/min
   Physical Examination
   Gen:  Intubated, not sedated but not following commands.
   HEENT:  NC, PERRLA, MMdry
   CVS:  tachycardic, S1 & S2 without murmur
   RESP:  Coarse breath sounds BL, rhonchi on right>Left
   ABD:  Soft, NT, ND, +BS
   GU: Clots of blood in foley
   EXT:  No edema, 2+ distal pulses
   Labs / Radiology
   276 K/uL
   10.9 g/dL
   130 mg/dL
   1.6 mg/dL
   26 mEq/L
   4.0 mEq/L
   24 mg/dL
   108 mEq/L
   143 mEq/L
   31.6 %
   20.5 K/uL
         [image002.jpg]
                             [**2122-1-21**]  07:41 AM
                             [**2122-1-21**]  11:30 AM
                             [**2122-1-21**]  02:35 PM
                             [**2122-1-21**]  02:48 PM
                             [**2122-1-21**]  06:39 PM
                             [**2122-1-22**]  01:41 AM
                             [**2122-1-22**]  01:57 AM
                             [**2122-1-22**]  10:16 PM
                             [**2122-1-22**]  10:31 PM
                             [**2122-1-23**]  03:13 PM
   WBC
   20.9
   20.5
   Hct
   28.6
   31.6
   Plt
   253
   276
   Cr
   1.7
   1.6
   1.5
   1.6
   TCO2
   24
   25
   24
   17
   25
   25
   Glucose
   140
   145
   142
   130
   Other labs: PT / PTT / INR:19.5/35.6/1.8, CK / CKMB /
   Troponin-T:83/6/0.04, Amylase / Lipase:14/12, Differential-Neuts:88.6
   %, Lymph:7.1 %, Mono:3.4 %, Eos:0.6 %, Lactic Acid:1.7 mmol/L, Ca++:7.8
   mg/dL, Mg++:2.0 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   87M h/o Alzheimer's dementia presented with pneumonia intubated for
   airway protection.
   # Hypoxic Respiratory failure:   Secondary to Aspiration, initially
   thought pneumonia, but no response to antibiotics, therefore more
   likely aspiration pneumonitis.  The patient
s CXR is only marginally
   improved overnight.  Patient is back on AC ventilation given lack of
   responsiveness.
   - s/p re-intubation
   - Continue to trend fever curve, WBC, and discontinue antibiotics today
   after prolonged course of vanc/[**Last Name (un) **]/cipro discontinued on [**1-23**]
   - f/u blood cultures and sputum cultures, currently no growth, if
   develops positive cultures will restart antibiotics directed towards
   specific pathogen
   - continue frequent suctioning
   - continue nebs prn
   - Continue lasix drip to attempt to diurese patient
   - Attempt PS trial
   #  Tachycardic:  Resolved. The patient became hypotensive after
   starting metoprolol for tachycardia  yesterday.   Will also continue to
   fluid resuscitate as needed, but given length of stay very positive,
   will attempt lasix drip as likely irritable from fluid overload and
   cardiac distension.
   - Will give trial of 5 mg metoprolol and transition to PO if tolerated
   -          PIVs for now placed by IV team.
   -          Given current care, will attempt PICC line, but if unable
   will not escalate to central line
   -          Attempt to capture tachycardia with EKG
   .
   # Hypernatremia: Unable to reliably follow given difficult access
   -          Discontinue maintenance fluids now
   -          Restart tube feeds with free water flushes.
   #. ARF: Pre-renal azotemia by FeNa, unable to reliably follow.
   -          Continue Tube Feeds/Hydration as protocolled in
Hypernatremia
   -          Obtain PICC
   #. Guaiac positive stool: No known h/o GI bleeding, does have GERD per
   report. Brown G+ stool prior to transfer. HD stable. Maintain T&S,
   PIVs. [**Hospital1 **] Hct. PPI IV bid.
   - PM CBC
   #. Dementia: continue outpatient sertraline and namenda.
   # FEN: Restart tube feeds, replete lytes prn
   # Access: PIV x 2 (18, 20), Radial arterial line
   # PPx: PPI [**Hospital1 **], heparin sc tid, bowel regimen
   # Code: DNR/ Do not re-intubate- will have family meeting on Monday
   # Communication: Primary is daughter ([**Name (NI) 655**]) [**Telephone/Fax (1) 3978**] (home)
   [**Telephone/Fax (1) 3979**] (cell)
   -- [**Hospital1 **] [**Location (un) 3894**] [**Telephone/Fax (1) 3895**]
   -- wife [**Name (NI) 896**] [**Telephone/Fax (1) 3896**] or [**Telephone/Fax (1) 3897**]
   -- [**First Name5 (NamePattern1) 82**] [**Last Name (NamePattern1) 3980**] [**Telephone/Fax (1) 3981**] (cell) (son-in-law)
   # DISPO:  ICU
 .H/O EDEMA, PERIPHERAL
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 TACHYCARDIA, OTHER
 IMPAIRED SKIN INTEGRITY
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2122-1-23**] 09:00 AM
   20 Gauge - [**2122-1-23**] 09:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2122-01-25 06:20:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Restarted lasix drip-titrate to UOP of 125 cc/hour
   -5 mg IV test dose of metoprolol, tolerated well and started on 12.5
   TID, remained rate controlled with good pressure overnight
   -unable to place PICC
   Allergies:
   Penicillins
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Flomax (Oral) (Tamsulosin Hcl)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2122-1-22**] 08:00 AM
   Ciprofloxacin - [**2122-1-23**] 12:08 AM
   Meropenem - [**2122-1-23**] 03:59 AM
   Infusions:
   Furosemide (Lasix) - 2 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2122-1-24**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2122-1-25**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-1-25**] 06:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.6
C (99.7
   HR: 84 (71 - 133) bpm
   BP: 126/68(82) {102/46(62) - 130/82(88)} mmHg
   RR: 18 (15 - 38) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 85.4 kg (admission): 85.4 kg
   Height: 71 Inch
             Total In:
                                                                  1,008 mL
                                                                    571 mL
   PO:
             TF:
                                                                    318 mL
                                                                    245 mL
   IVF:
                                                                    316 mL
                                                                     76 mL
   Blood products:
   Total out:
                                                                  3,485 mL
                                                                    900 mL
   Urine:
                                                                  3,485 mL
                                                                    900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,477 mL
                                                                   -329 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 597 (375 - 680) mL
   PS : 8 cmH2O
   RR (Set): 14
   RR (Spontaneous): 20
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 54
   PIP: 17 cmH2O
   Plateau: 16 cmH2O
   Compliance: 62.5 cmH2O/mL
   SpO2: 98%
   ABG: ///24/
   Ve: 14.5 L/min
   Physical Examination
   Gen:  Intubated, not sedated but not following commands.
   HEENT:  NC, PERRLA, MMdry
   CVS:  rate controlled, occ. Irregular beats, S1 & S2 without murmur
   RESP:  Coarse breath sounds BL, rhonchi on right>Left, hiccups
   ABD:  Soft, NT, ND, +BS
   GU: Clots of blood in foley resolved
   EXT:  No edema, 2+ distal pulses
   Labs / Radiology
   393 K/uL
   10.8 g/dL
   122 mg/dL
   1.6 mg/dL
   24 mEq/L
   3.8 mEq/L
   26 mg/dL
   105 mEq/L
   141 mEq/L
   31.1 %
   21.9 K/uL
        [image002.jpg]
                             [**2122-1-21**]  11:30 AM
                             [**2122-1-21**]  02:35 PM
                             [**2122-1-21**]  02:48 PM
                             [**2122-1-21**]  06:39 PM
                             [**2122-1-22**]  01:41 AM
                             [**2122-1-22**]  01:57 AM
                             [**2122-1-22**]  10:16 PM
                             [**2122-1-22**]  10:31 PM
                             [**2122-1-23**]  03:13 PM
                             [**2122-1-24**]  12:20 PM
   WBC
   20.9
   20.5
   21.9
   Hct
   28.6
   31.6
   31.1
   Plt
   [**Telephone/Fax (3) 4119**]
   Cr
   1.7
   1.6
   1.5
   1.6
   1.6
   TCO2
   25
   24
   17
   25
   25
   Glucose
   140
   145
   142
   130
   122
   Other labs: PT / PTT / INR:20.2/40.1/1.9, CK / CKMB /
   Troponin-T:83/6/0.04, Amylase / Lipase:14/12, Differential-Neuts:88.6
   %, Lymph:7.1 %, Mono:3.4 %, Eos:0.6 %, Lactic Acid:1.7 mmol/L, Ca++:8.2
   mg/dL, Mg++:1.9 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   87M h/o Alzheimer's dementia presented with pneumonia intubated for
   airway protection.
   # Hypoxic Respiratory failure:   Secondary to Aspiration, initially
   thought pneumonia, but no response to antibiotics, therefore more
   likely aspiration pneumonitis.  The patient
s CXR is only marginally
   improved overnight.  Patient is back on PS ventilation to attempt to
   improve hiccup breathing pattern.
   - s/p re-intubation
   - Continue to trend fever curve, WBC, and discontinue antibiotics today
   after prolonged course of vanc/[**Last Name (un) **]/cipro discontinued on [**1-23**]
   - f/u blood cultures and sputum cultures, currently no growth, if
   develops positive cultures will restart antibiotics directed towards
   specific pathogen
   - continue frequent suctioning
   - continue nebs prn
   - Continue lasix drip to attempt to diurese patient with goal 100-200
   cc/hour
   - Will discuss CMO status with family today and attempt extubation as
   on [**5-12**]
   #  Tachycardic:  Resolved. The patient became hypotensive after
   starting metoprolol for tachycardia  yesterday.   Will also continue to
   fluid resuscitate as needed, but given length of stay very positive,
   will attempt lasix drip as likely irritable from fluid overload and
   cardiac distension.
   - Given IV metoprolol and transitioned to PO, tolerated well
   -          PIVs for now placed by IV team.
   -          PICC line unsuccessful
   -          Attempt to capture tachycardia with EKG
   .
   # Hypernatremia: Unable to reliably follow given difficult access
   -          Discontinue maintenance fluids now
   -          Hold tube feeds in the setting of possible extubation
   #. ARF: Pre-renal azotemia by FeNa, unable to reliably follow.
   -          Continue Tube Feeds/Hydration as protocolled in
Hypernatremia
   -          Unable to get PICC
   #. Guaiac positive stool: No known h/o GI bleeding, does have GERD per
   report. Brown G+ stool prior to transfer. HD stable. Maintain T&S,
   PIVs. [**Hospital1 **] Hct. PPI IV bid.
   - will hold as moving toward CMO
   #. Dementia: continue outpatient sertraline and namenda.
   # FEN: Hold tube feeds, replete lytes prn
   # Access: PIV x 2 (18, 20),
   # PPx: PPI [**Hospital1 **], heparin sc tid, bowel regimen
   # Code: DNR/ Do not re-intubate- will have family meeting on Today to
   discuss comfort care
   # Communication: Primary is daughter ([**Name (NI) 655**]) [**Telephone/Fax (1) 3978**] (home)
   [**Telephone/Fax (1) 3979**] (cell)
   -- [**Hospital1 **] [**Location (un) 3894**] [**Telephone/Fax (1) 3895**]
   -- wife [**Name (NI) 896**] [**Telephone/Fax (1) 3896**] or [**Telephone/Fax (1) 3897**]
   -- [**First Name5 (NamePattern1) 82**] [**Last Name (NamePattern1) 3980**] [**Telephone/Fax (1) 3981**] (cell) (son-in-law)
   # DISPO:  ICU
 .H/O EDEMA, PERIPHERAL
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 TACHYCARDIA, OTHER
 IMPAIRED SKIN INTEGRITY
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2122-1-25**] 04:45 AM 40 mL/hour
   Glycemic Control:
   Lines:
   22 Gauge - [**2122-1-23**] 09:00 AM
   20 Gauge - [**2122-1-23**] 09:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2122-01-26 06:53:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Extubated
   - Dobhoff removed
   - CMO with lasix/morphine gtt
 INVASIVE VENTILATION - STOP [**2122-1-25**] 03:16 PM
   Allergies:
   Penicillins
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Flomax (Oral) (Tamsulosin Hcl)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Morphine Sulfate - 10 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-1-26**] 06:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.2
C (99
   HR: 127 (68 - 127) bpm
   BP: 85/45(55) {77/40(51) - 137/70(83)} mmHg
   RR: 15 (13 - 42) insp/min
   SpO2: 60%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 90.4 kg (admission): 85.4 kg
   Height: 71 Inch
             Total In:
                                                                  1,105 mL
                                                                     67 mL
   PO:
             TF:
                                                                    500 mL
   IVF:
                                                                    355 mL
                                                                     67 mL
   Blood products:
   Total out:
                                                                  3,545 mL
                                                                    545 mL
   Urine:
                                                                  3,545 mL
                                                                    545 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,440 mL
                                                                   -478 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 580 (460 - 580) mL
   PS : 5 cmH2O
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 11 cmH2O
   SpO2: 60%
   ABG: ///28/
   Ve: 13.4 L/min
   Physical Examination
   Gen:  Intubated, not sedated but not following commands.
   HEENT:  NC, PERRLA, MMdry
   CVS:  rate controlled, occ. Irregular beats, S1 & S2 without murmur
   RESP:  Coarse breath sounds BL, rhonchi on right>Left, hiccups
   ABD:  Soft, NT, ND, +BS
   GU: Clots of blood in foley resolved
   EXT:  No edema, 2+ distal pulses
   Labs / Radiology
   439 K/uL
   10.4 g/dL
   181 mg/dL
   1.5 mg/dL
   28 mEq/L
   3.7 mEq/L
   29 mg/dL
   104 mEq/L
   142 mEq/L
   29.5 %
   16.2 K/uL
        [image002.jpg]
                             [**2122-1-21**]  02:35 PM
                             [**2122-1-21**]  02:48 PM
                             [**2122-1-21**]  06:39 PM
                             [**2122-1-22**]  01:41 AM
                             [**2122-1-22**]  01:57 AM
                             [**2122-1-22**]  10:16 PM
                             [**2122-1-22**]  10:31 PM
                             [**2122-1-23**]  03:13 PM
                             [**2122-1-24**]  12:20 PM
                             [**2122-1-25**]  10:56 AM
   WBC
   20.9
   20.5
   21.9
   16.2
   Hct
   28.6
   31.6
   31.1
   29.5
   Plt
   [**Telephone/Fax (3) 4139**]39
   Cr
   1.7
   1.6
   1.5
   1.6
   1.6
   1.5
   TCO2
   24
   17
   25
   25
   Glucose
   140
   145
   142
   130
   122
   181
   Other labs: PT / PTT / INR:17.3/37.8/1.6, CK / CKMB /
   Troponin-T:83/6/0.04, Amylase / Lipase:14/12, Differential-Neuts:88.6
   %, Lymph:7.1 %, Mono:3.4 %, Eos:0.6 %, Lactic Acid:1.7 mmol/L, Ca++:8.2
   mg/dL, Mg++:2.1 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   \87M h/o Alzheimer's dementia presented with pneumonia intubated for
   airway protection.
   # Hypoxic Respiratory failure:   Secondary to Aspiration, initially
   thought pneumonia, but no response to antibiotics, therefore more
   likely aspiration pneumonitis.  The patient
s CXR is only marginally
   improved overnight.  Patient is back on PS ventilation to attempt to
   improve hiccup breathing pattern.
   - s/p re-intubation
   - Continue to trend fever curve, WBC, and discontinue antibiotics today
   after prolonged course of vanc/[**Last Name (un) **]/cipro discontinued on [**1-23**]
   - f/u blood cultures and sputum cultures, currently no growth, if
   develops positive cultures will restart antibiotics directed towards
   specific pathogen
   - continue frequent suctioning
   - continue nebs prn
   - Continue lasix drip to attempt to diurese patient with goal 100-200
   cc/hour
   - Will discuss CMO status with family today and attempt extubation as
   on [**5-12**]
   #  Tachycardic:  Resolved. The patient became hypotensive after
   starting metoprolol for tachycardia  yesterday.   Will also continue to
   fluid resuscitate as needed, but given length of stay very positive,
   will attempt lasix drip as likely irritable from fluid overload and
   cardiac distension.
   - Given IV metoprolol and transitioned to PO, tolerated well
   -          PIVs for now placed by IV team.
   -          PICC line unsuccessful
   -          Attempt to capture tachycardia with EKG
   .
   # Hypernatremia: Unable to reliably follow given difficult access
   -          Discontinue maintenance fluids now
   -          Hold tube feeds in the setting of possible extubation
   #. ARF: Pre-renal azotemia by FeNa, unable to reliably follow.
   -          Continue Tube Feeds/Hydration as protocolled in
Hypernatremia
   -          Unable to get PICC
   #. Guaiac positive stool: No known h/o GI bleeding, does have GERD per
   report. Brown G+ stool prior to transfer. HD stable. Maintain T&S,
   PIVs. [**Hospital1 **] Hct. PPI IV bid.
   - will hold as moving toward CMO
   #. Dementia: continue outpatient sertraline and namenda.
   # FEN: Hold tube feeds, replete lytes prn
   # Access: PIV x 2 (18, 20),
   # PPx: PPI [**Hospital1 **], heparin sc tid, bowel regimen
   # Code: DNR/ Do not re-intubate- will have family meeting on Today to
   discuss comfort care
   # Communication: Primary is daughter ([**Name (NI) 655**]) [**Telephone/Fax (1) 3978**] (home)
   [**Telephone/Fax (1) 3979**] (cell)
   -- [**Hospital1 **] [**Location (un) 3894**] [**Telephone/Fax (1) 3895**]
   -- wife [**Name (NI) 896**] [**Telephone/Fax (1) 3896**] or [**Telephone/Fax (1) 3897**]
   -- [**First Name5 (NamePattern1) 82**] [**Last Name (NamePattern1) 3980**] [**Telephone/Fax (1) 3981**] (cell) (son-in-law)
   # DISPO:  ICU
 .H/O EDEMA, PERIPHERAL
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 TACHYCARDIA, OTHER
 IMPAIRED SKIN INTEGRITY
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2122-1-23**] 09:00 AM
   20 Gauge - [**2122-1-23**] 09:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: